US06218547B1
A mixture of 3-fluoronitrobenzene (10.0 g, 70.9 mmol) and piperidine (14 ml, 141 mmol) was stirred at 110° C. for 3 days. After cooling water (200 ml) was added and the mixture was extracted with dichloromethane (3×100 ml). The combined organic extracts were washed with saturated aqueous sodium carbonate, dried over sodium sulfate and evaporated to dryness to leave 1-(3-nitrophenyl)piperidine (13.7 g, 93%) as an oil. This oil was dissolved in ethanol (150 ml) and was hydrogenated at ambient pressure using palladium on activated carbon as the catalyst to yield 2a (11.7 g, 100%) as an oil.

reactant | 3-fluoronitrobenzene | 70.9 mmol, 10.0 g | FC=1C=C(C=CC1)[N+](=O)[O-] | C6H4FNO2
reactant | piperidine | 141 mmol, 14 ml | N1CCCCC1 | C5H11N
solvent | water | 200 ml | O | H2O
product | 1-(3-nitrophenyl)piperidine | 13.7 g, 93% | [N+](=O)([O-])C=1C=C(C=CC1)N1CCCCC1 | C11H14N2O2
